US07977352B2
To a 250-mL round bottom flasked is added 10% Pd/C (150 mg). The flask is sealed with a septum, and flushed with a slow stream of N2. racemic-trans-[1,2,5-Trimethyl-4-(4-nitrophenyl)piperazine] (1.28 g, 5.13 mmol) is dissolved in EtOH (30 mL) and transferred via syringe into the flask. The flask is again flushed with N2 and then fitted with a balloon of hydrogen. An outlet needle is inserted through the septum and the flask is flushed with hydrogen before the outlet needle is removed. The resulting slurry is stirred vigorously under the H2 atmosphere at rt. After 24 h the yellow color of the solution dissipates and the hydrogen balloon is removed. The flask is flushed with nitrogen, DCM (24 mL) is added to the reaction mixture, and the resulting slurry is stirred at rt for 24 h. The reaction is filtered through a filtration tube packed with a short column of Celite, the Celite is washed with DCM (2×25 mL), and the combined filtrate evaporated to dryness on a rotary evaporator to provide crude racemic 4-(trans-2,4,5-trimethyl-piperazin-1-yl)-phenylamine (1.11 g, 98% recovery, 97% purity as determined by LC/MS analysis @ UV 254 nm detection). The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C13H21N3, 219; [M+H]+ found, 220.

reactant | racemic-trans-[1,2,5-Trimethyl-4-(4-nitrophenyl)piperazine] | 5.13 mmol, 1.28 g | CN1[C@H](CN([C@@H](C1)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H19N3O2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | racemic 4-(trans-2,4,5-trimethyl-piperazin-1-yl)-phenylamine | 1.11 g | C[C@@H]1N(C[C@H](N(C1)C)C)C1=CC=C(C=C1)N | C13H21N3
